US07732461B2
(b) 3-Bromo-4,5-dihydroxybenzaldehyde
To a solution of 3-bromo-4-hydroxy-5-methoxybenzaldehyde (12.1 g, 0.52 mol) in dichloromethane (200 ml) was added 1.0 M boron tribromide in dichloromethane (2.2 eq, 115 ml) at 0°. The reaction was stirred at 0° for 20 min, then at ambient temperature for 2.5 h. The reaction was then cooled to 0°, and quenched by the slow addition of methanol. The solvents were removed under reduced pressure and the trimethyl borate was removed by azeotropation with added methanol. Drying in vacuo yielded the desired product (11.51 g, 100%).

reactant | 3-bromo-4-hydroxy-5-methoxybenzaldehyde | 0.52 mol, 12.1 g | BrC=1C=C(C=O)C=C(C1O)OC | C8H7BrO3
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 115 ml, 2.2 eq | ClCCl | CH2Cl2
product | 3-Bromo-4,5-dihydroxybenzaldehyde | 11.51 g, 100% | BrC=1C=C(C=O)C=C(C1O)O | C7H5BrO3
